US07728023B2
methyl [4-bromo-2-methyl-5-(methyloxy)-1H-indol-3-yl]acetate
To an acetic acid (12 mL) solution of methyl [2-methyl-5-(methyloxy)-1H-indol-3-yl]acetate (300 mg), bromine (206 mg) was added and the mixture was stirred at room temperature for one hour. To the reaction mixture, water and an aqueous saturated sodium hydrogen carbonate solution were added, followed by extraction with ethyl acetate. The organic layer was washed in turn with an aqueous saturated sodium hydrogen carbonate solution, water and saturated saline, dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=65:35→60:40) to obtain the titled compound having the following physical properties (134 mg).

reactant | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
reactant | methyl [2-methyl-5-(methyloxy)-1H-indol-3-yl]acetate | 300 mg | CC=1NC2=CC=C(C=C2C1CC(=O)OC)OC | C13H15NO3
reactant | bromine | 206 mg | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | methyl [4-bromo-2-methyl-5-(methyloxy)-1H-indol-3-yl]acetate | BrC1=C2C(=C(NC2=CC=C1OC)C)CC(=O)OC | C13H14BrNO3
